US07169925B2
Step F4: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid (S)-1-methoxycarbonyl-ethyl ester
Stir at 0° C. a mixture of 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid (3.0 g, 12 mmol), methyl (S)-(−)-lactate (2.3 mL, 24 mmol), 4-methylmorpholine (2.6 mL,24 mmol) and DMF (50.0 mL). Add benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP, 5.32 g, 12 mmol) in one portion and stir at ambient temperature overnight. Add brine (50 mL) and extract with ethyl acetate (3×200 mL). Concentrate under vacuum to an oil. Chromatograph over silica gel (5 g) and elute with dichloromethane, EtOAC, and MeOH. Concentrate like fractions under vacuum to an oil. Treat the oil with HCl in ether (10 mL) add additional ether (50 mL) and concentrate under vacuum to an oil. Treat the oil with 5% aqueous NaHCO3 and extract with EtOAc. Dry the extract over Na2SO4, filter and concentrate to an oil. Scratch the oil with a glass rod in the presence of ether to obtain a sticky solid. Add CH3CN and then ether and obtain of the title compound as a yellow solid, 140 mg: MS 340(M+H), Rt=2.73 min. (95/5/0.1 (A) 5/95/0.1 (B) Water/CAN/Formic Acid YMC ODS-A 2×50 mm 1 mL/min Gradient Composition: 100% A for 0.1 min Linear Gradient to 100% B at 2 min Hold until 3.5 min.)

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid | 12 mmol, 3.0 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)O | C14H11N3O2
reactant | methyl (S)-(−)-lactate | 24 mmol, 2.3 mL | C([C@@H](O)C)(=O)OC | C4H8O3
reactant | 4-methylmorpholine | 24 mmol, 2.6 mL | CN1CCOCC1 | C5H11NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 12 mmol, 5.32 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | ether | CCOCC | C4H10O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 50.0 mL | CN(C)C=O | C3H7NO
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid (S)-1-methoxycarbonyl-ethyl ester | COC(=O)[C@H](C)OC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1 | C18H17N3O4
